US06017911
1,200 ml of a 60% aqueous solution of acetic acid was added to 125.5 g of (3R*,4S*,5R*)-1-benzyl-3,4-bis(tert-butyldimethylsilyloxy)-5-(2-hydroxyethyl)-2-pyrrolidinone which had been prepared according to the procedure described in J. Org. Chem. 60, 103-108 (1995) by using D-tartaric acid as the starting material. After this mixture was refluxed overnight and concentrated under reduced pressure, 300 ml of concentrated aqueous ammonia and 500 ml of methanol were added to the resulting residue, followed by stirring at room temperature overnight. After the reaction mixture was concentrated under reduced pressure, the resulting residue was purified by silica gel column chromatography (using a 10:1 mixture of chloroform and methanol as the eluent) to obtain 35 g of (3R*,4S*,5R*)-1-benzyl-3,4-dihydroxy-5-(2-hydroxyethyl)-2-pyrrolidinone.

reactant | (3R*,4S*,5R*)-1-benzyl-3,4-bis(tert-butyldimethylsilyloxy)-5-(2-hydroxyethyl)-2-pyrrolidinone | 125.5 g | C(C1=CC=CC=C1)N1C([C@@H]([C@H]([C@H]1CCO)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)=O | C25H45NO4Si2
reactant | D-tartaric acid | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (3R*,4S*,5R*)-1-benzyl-3,4-dihydroxy-5-(2-hydroxyethyl)-2-pyrrolidinone | 35 g | C(C1=CC=CC=C1)N1C([C@@H]([C@H]([C@H]1CCO)O)O)=O | C13H17NO4
